* C:\Users\Daniel Hoefer\Documents\Toyota Satoshi Emblem\GitHub\FIC Board\FIC Board\LTSpice\Draft8.asc
XU1 5v N001 tri 10v 0 LT1457
XU2 N003 5v 10v 0 N002 LT1017
R1 N003 tri 50k
R2 comp N003 100k
R3 comp N002 1k
R4 N002 10v 1k
R5 comp N001 53k
C1 tri N001 4.7n
V2 10v 0 10
R6 10v 5v 100k
R7 5v 0 100k
.tran 0 2m 0 10u
.ic v(tri) = 1
.lib LTC1.lib
.lib LTC2.LIB
.backanno
.end
